US05189036
N-Butyl-N'-[1-(phenylmethyl)-4-piperidinyl]urea
Butyl isocyanate (33.9 g, 342 mmol) is added dropwise to a solution of 1-(phenylmethyl)-4-piperidinamine (65 g, 342 mmol) in methylene chloride (400 mL) at 0° C., and the mixture is stirred for 2 hr. The mixture is washed three times with water, dried over magnesium sulfate, and evaporated. Recrystallization of the residue from methylene chloride-hexane affords the title compound.

reactant | Butyl isocyanate | 342 mmol, 33.9 g | C(CCC)N=C=O | C5H9NO
reactant | 1-(phenylmethyl)-4-piperidinamine | 342 mmol, 65 g | C1(=CC=CC=C1)CN1CCC(CC1)N | C12H18N2
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | N-Butyl-N'-[1-(phenylmethyl)-4-piperidinyl]urea | C(CCC)NC(=O)NC1CCN(CC1)CC1=CC=CC=C1 | C17H27N3O
